US04675320
Using the method of Example 1, 5-bromomethyl-2-nitro-3-phenylbenzofuran is reacted with morpholine in ethanol to provide yellow crystals of N-(2-nitro-3-phenyl-5-benzofuranylmethyl)morpholine, m.p. 151°-154° C., having the structure

reactant | 5-bromomethyl-2-nitro-3-phenylbenzofuran | BrCC=1C=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C1 | C15H10BrNO3
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | ethanol | C(C)O | C2H6O
product | N-(2-nitro-3-phenyl-5-benzofuranylmethyl)morpholine | [N+](=O)([O-])C=1OC2=C(C1C1=CC=CC=C1)C=C(C=C2)CN2CCOCC2 | C19H18N2O4
